US06121271
4-[4-(9-Bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenoxysulfonyl]-2-hydroxy-benzoic acid
Using 4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenol (0.302 g, 0.744 mmol) and 4-chlorosulphonyl-2-hydroxybenzoic acid (1.09 g, 4.61 mmol) the title compound was prepared according to the procedure in Example 1, step 9. Purification on Dynamax C18 eluting with 85% CH3CN/H2O (0.1% TFA added) gave 0.20 g (44%) of the title compound as a yellow solid, mp >225° C.; 1H NMR (DMSO-d6) δ 1.59 (s, 3 H), 2.16 (s, 6 H), 2.45 (s, 3 H), 7.19 (S, 2 H), 7.46-7.52 (m, 4 H), 7.65-7.69 (m, 1 H), 8.07 (d, 1 H), 8.21 (d, 1 H). IR (KBr) 3450, 2900, 1675, 1385 and 1185 cm-1. mass spectrum (-ESI), m/z 609/611 (M-H). Anal. Calcd. for C29H23BrO6S2.0.7H2O: C, 55.81; H, 3.94 N, 0.00. Found: C, 55.93; H, 4.23 N, 0.12.

reactant | 4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenol | 0.744 mmol, 0.302 g | BrC1=C2C=CC=CC2=C(C2=C1SC(=C2C)C)C2=CC(=C(C(=C2)C)O)C | C22H19BrOS
reactant | 4-chlorosulphonyl-2-hydroxybenzoic acid | 4.61 mmol, 1.09 g | ClS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O | C7H5ClO5S
product | 4-[4-(9-Bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenoxysulfonyl]-2-hydroxy-benzoic acid | BrC1=C2C=CC=CC2=C(C2=C1SC(=C2C)C)C2=CC(=C(OS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O)C(=C2)C)C | C29H23BrO6S2
